US08859773B2
To a solution of tert-butyl 2′-tert-butyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate (70 mg, 0.19 mmol) in ethyl acetate (5 mL) was added 4 M hydrochloric acid in 1,4-dioxane (2 mL) and the mixture was stirred 3 hours at room temperature. The volatiles were removed under reduced pressure and the resultant colorless solid was triturated from heptanes (10 mL) and dried under reduced pressure to yield 2′-tert-butyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one hydrochloride salt (56 mg) as an off-white solid. +ESI (M+H) 263.1; 1H NMR (500 MHz, DMSO-d6, δ): 8.72 (m, 2H), 7.92 (s, 1H), 7.75 (s, 1H), 3.20 (br. s, 2H), 3.09 (br. s., 2H), 2.78 (s, 2H), 1.79 (m, 4H), 1.48 (s, 9H).

reactant | tert-butyl 2′-tert-butyl-7′-oxo-2′,4′,6′,7′-tetrahydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridine]-1-carboxylate | 0.19 mmol, 70 mg | C(C)(C)(C)N1N=C2C(NC3(CC2=C1)CCN(CC3)C(=O)OC(C)(C)C)=O | C19H30N4O3
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2′-tert-butyl-4′,6′-dihydrospiro[piperidine-4,5′-pyrazolo[3,4-c]pyridin]-7′(2′H)-one hydrochloride salt | 56 mg | Cl.C(C)(C)(C)N1N=C2C(NC3(CC2=C1)CCNCC3)=O | InChI=1S/C14H22N4O.ClH/c1-13(2,3)18-9-10-8-14(4-6-15-7-5-14)16-12(19)11(10)17-18;/h9,15H,4-8H2,1-3H3,(H,16,19);1H
